* C:\GitHub\research-simulation\Ltspice\FCMC\7level_delay.asc
V2 N008 0 PULSE(0 1 0 1p 1p {1/freq*(1-duty)} {1/freq})
A1 N008 0 0 0 0 0 Ph1 0 BUF
V§Source Vin 0 {Vin}
S8 nc2t nc1t Ph5b 0 MYSWH
S7 nc1t sw Ph6b 0 MYSWL
S9 nc3t nc2t Ph4b 0 MYSWL
S10 nc4t nc3t Ph3b 0 MYSWH
S11 nc5t nc4t Ph2b 0 MYSWL
S12 Vin nc5t Ph1b 0 MYSWH
V3 N009 0 PULSE(0 1 {1/freq/6+delay} 1p 1p {1/freq*(1-duty)-delay+delay2} {1/freq})
A3 N009 0 0 0 0 0 Ph2 0 BUF
S1 nc2b nc1b Ph5 0 MYSWL
S2 nc1b sw Ph6 0 MYSWH
S3 nc3b nc2b Ph4 0 MYSWH
S4 nc4b nc3b Ph3 0 MYSWL
S5 nc5b nc4b Ph2 0 MYSWH
S6 0 nc5b Ph1 0 MYSWL
C2 nc5t nc5b {C} Rser={ESR} IC={Vin/6*5}
C4 nc4t nc4b {C} Rser={ESR} IC={Vin/6*4}
C6 nc3t nc3b {C} Rser={ESR} IC={Vin/6*3}
C8 nc2t nc2b {C} Rser={ESR} IC={Vin/6*2}
C9 nc1t nc1b {C} Rser={ESR} IC={Vin/6*1}
L sw N001 10µ Rser=20m ic = {Vin*duty/Rload}
R1 N001 0 {Rload}
C10 N001 0 10µ IC={Vin*duty} Rser=1m
V1 N010 0 PULSE(0 1 {1/freq/3} 1p 1p {1/freq*(1-duty)} {1/freq})
A2 N010 0 0 0 0 0 Ph3 0 BUF
V4 N011 0 PULSE(0 1 {1/freq/2+delay} 1p 1p {1/freq*(1-duty)-delay+delay2} {1/freq})
A4 N011 0 0 0 0 0 Ph4 0 BUF
V5 N012 0 PULSE(0 1 {1/freq/3*2} 1p 1p {1/freq*(1-duty)} {1/freq})
A5 N012 0 0 0 0 0 Ph5 0 BUF
V6 N013 0 PULSE(0 1 {1/freq/6*5+delay} 1p 1p {1/freq*(1-duty)-delay+delay2} {1/freq})
A6 N013 0 0 0 0 0 Ph6 0 BUF
V7 N007 0 PULSE(0 1 {1/freq/6*5+1/freq*(1-duty)+dead} 1p 1p {1/freq*duty-dead*2} {1/freq})
A7 N007 0 0 0 0 0 Ph6b 0 BUF
V8 N002 0 PULSE(0 1 {1/freq*(1-duty)+dead+delay} 1p 1p {1/freq*duty-dead*2-delay+delay2} {1/freq})
A8 N002 0 0 0 0 0 Ph1b 0 BUF
V9 N003 0 PULSE(0 1 {1/freq/6+1/freq*(1-duty)+dead} 1p 1p {1/freq*duty-dead*2} {1/freq})
A9 N003 0 0 0 0 0 Ph2b 0 BUF
V10 N004 0 PULSE(0 1 {1/freq/3+1/freq*(1-duty)+dead+delay} 1p 1p {1/freq*duty-dead*2-delay+delay2} {1/freq})
A10 N004 0 0 0 0 0 Ph3b 0 BUF
V11 N005 0 PULSE(0 1 {1/freq/2+1/freq*(1-duty)+dead} 1p 1p {1/freq*duty-dead*2} {1/freq})
A11 N005 0 0 0 0 0 Ph4b 0 BUF
V12 N006 0 PULSE(0 1 {1/freq/3*2+1/freq*(1-duty)+dead+delay} 1p 1p {1/freq*duty-dead*2-delay+delay2} {1/freq})
A12 N006 0 0 0 0 0 Ph5b 0 BUF
D1 0 nc5b MyDiode
D2 nc5b nc4b MyDiode
D3 nc4b nc3b MyDiode
D4 nc3b nc2b MyDiode
D5 nc2b nc1b MyDiode
D6 nc1b sw MyDiode
D7 nc5t Vin MyDiode
D8 nc4t nc5t MyDiode
D9 nc3t nc4t MyDiode
D10 nc2t nc3t MyDiode
D11 nc1t nc2t MyDiode
D12 sw nc1t MyDiode
R3 N001 sw 10k
.model D D
.lib C:\Users\pilawa_group\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 {50m + 2/freq} 50m uic
.model MYSWH SW(Ron=12m Roff=1Meg Vt=.5)
.model MYSWL SW(Ron=12m Roff=1Meg Vt=.5)
.model MyDiode D(Ron=2m Roff=1Meg Vfwd=2)
.param delay=3n delay2=2n
.param freq=120k
.param duty=0.25 Vin= 90 Rload = 100
.param dead=40n
.param C = 2.2u ESR = 5m
.meas TRAN S6max MAX V(sw) - V(nc1b)
.meas TRAN S5max MAX V(nc1b) - V(nc2b)
.meas TRAN S4max MAX V(nc2b) - V(nc3b)
.meas TRAN S3max MAX V(nc3b)-V(nc4b)
.meas TRAN S2max MAX V(nc4b)-V(nc5b)
.meas TRAN S1max MAX V(nc5b)
.meas TRAN Vc5 MAX V(nc5t)-V(nc5b)
.meas TRAN Vc4 MAX V(nc4t)-V(nc4b)
.meas TRAN Vc3 MAX V(nc3t)-V(nc3b)
.meas TRAN Vc2 MAX V(nc2t)-V(nc2b)
.meas TRAN Vc1 MAX V(nc1t)-V(nc1b)
.meas TRAN S6bmax MAX V(nc1t) - V(sw) 
.meas TRAN S5bmax MAX V(nc2t) - V(nc1t) 
.meas TRAN S4bmax MAX V(nc3t) - V(nc2t) 
.meas TRAN S3bmax MAX V(nc4t) - V(nc3t)
.meas TRAN S2bmax MAX V(nc5t) - V(nc4t)
.meas TRAN S1bmax MAX V(Vin) - V(nc5t)
*.step param C list 2.2u 1.1u
*.step param Rload list 10 5
*.step param delay2 list 1.5n 3n
.step param Rload list 100 50 25 10 5
.backanno
.end
